US05314885
A solution of α,α'-dichoro-p-xylene(30.40 g, 0.174 mol), N-[2-(1-methylethoxy)phenyl]piperazine (12.70 g, 0.058 mol), triethylamine (6.08 g, 0.06 mol), and THF (200 mL) was refluxed for 4 h. Ether (100 mL) and 1N HCl (100 mL) were added producing a white suspension which was filtered to give 4-[[1-[2-(1-methylethoxy)phenyl]-4-piperazinyl]methyl]benzyl chloride hydrochloride.

reactant | α,α'-dichoro-p-xylene | 0.174 mol, 30.40 g | ClCC1=CC=C(C=C1)CCl | C8H8Cl2
reactant | N-[2-(1-methylethoxy)phenyl]piperazine | 0.058 mol, 12.70 g | CC(C)OC1=C(C=CC=C1)N1CCNCC1 | C13H20N2O
reactant | triethylamine | 0.06 mol, 6.08 g | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N, 100 mL | Cl | ClH
solvent | Ether | 100 mL | CCOCC | C4H10O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-[[1-[2-(1-methylethoxy)phenyl]-4-piperazinyl]methyl]benzyl chloride hydrochloride | Cl.CC(C)OC1=C(C=CC=C1)N1CCN(CC1)CC1=CC=C(CCl)C=C1 | InChI=1S/C21H27ClN2O.ClH/c1-17(2)25-21-6-4-3-5-20(21)24-13-11-23(12-14-24)16-19-9-7-18(15-22)8-10-19;/h3-10,17H,11-16H2,1-2H3;1H
